US06720320B2
N-propargyl-4-methoxybenzo(b)furan-2-carboxamide
4-Methoxybenzo(b)furan-2-carboxylic acid (44.0 g) and propargylamine (12 g) were dissolved in dimethylformamide (200 ml), and WSC (48.0 g), HOBt (43.0 g) and triethylamine (50 ml) were added thereto at room temperature. The mixture was stirred for 4 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of ammonium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound as yellow crystals (45.0 g)

reactant | 4-Methoxybenzo(b)furan-2-carboxylic acid | 44.0 g | COC1=CC=CC=2OC(=CC21)C(=O)O | C10H8O4
reactant | propargylamine | 12 g | C(C#C)N | C3H5N
reactant | WSC | 48.0 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 43.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | N-propargyl-4-methoxybenzo(b)furan-2-carboxamide | 45.0 g | C(C#C)NC(=O)C1=CC2=C(O1)C=CC=C2OC | C13H11NO3
